US03962270
53 g of cyclobutane-1,2-dinitrile were heated for 3.5 hours to 100°C with 150 g of 2-hydroxymethyl-2-amino-1-propanol in the presence of 0.5 g of CuCl. Distillation of the reaction mixture in the same way as described in Example 15 gave 175 g of distillate boiling at 142° - 200°C/0.6 Torr which, when subsequently fractionated in a Vigreux column, gave 117 g (83% of the theoretical) of 1,2-bis-(4-methyl-4-hydroxymethyl oxazolin-2-yl)-cyclobutane boiling at 198° - 204°C/0.05 Torr.

reactant | cyclobutane-1,2-dinitrile | 53 g | C1(C(CC1)C#N)C#N | C6H6N2
reactant | 2-hydroxymethyl-2-amino-1-propanol | 150 g | OCC(CO)(C)N | C4H11NO2
catalyst | CuCl | 0.5 g | Cl[Cu]
product | 1,2-bis-(4-methyl-4-hydroxymethyl oxazolin-2-yl)-cyclobutane | CC1(N=C(OC1)C1C(CC1)C=1OCC(N1)(C)CO)CO | C14H22N2O4
